US07312359B2
5-Fluoro-1-indanone from Aldrich Sigma Chemical Co. (Cat No. 18,566-3) was treated with benzenethiol in the presence of potassium carbonate using the procedure of step 4 of Example 1 to afford 5-phenylsulfanyl-indan-1-one. MS: 241 (M+H)+.

reactant | 5-Fluoro-1-indanone | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-phenylsulfanyl-indan-1-one | C1(=CC=CC=C1)SC=1C=C2CCC(C2=CC1)=O | C15H12OS
